Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Vancomycin / Adhesive / Tegaderm / morphine / Dilaudid
 
Attending: ___
 
Chief Complaint:
Diarrhea, shortness of breath
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ woman with metastatic NSCLC
previously on erlotinib transitioned to osimertinib due to
progression, PE (on lovenox), who presented with diarrhea with
subsequent hypoxic respiratory failure.

Ms. ___ notes that she has been experiencing diarrhea for the
past  ___ days. Has had ___ episodes daily, brown stool without
blood present. No obvious inciting event in the past ___ days,
however her daughter reports she was concerned her mother did 
not
look well so they presented to the ED. She notes that she has
experienced diarrhea with osimertinib previously and required IV
fluids. 

Ms. ___ reports her breathing had been difficult in the past 
24
hours but acutely worsened following the second liter of LR 
while
trying to ambulate. Prior to presentation notes increased cough
over the past few days, although chronic at baseline. No sputum
production and no fevers or chills.

She denies recent travel, sick contacts new medications. She
additionally denies any chest pain (past or present)

In the ED,  

Initial Vitals:  T97.1 HR105 BP137/78 RR 18 100% RA

Exam:  

Labs:
UA: Negative
Chemistry: Na 139, K 4.2 Cl107 BUN 21 Sr Cr 0.8  
Troponin: 

CBC: WBC 4.2 Hgb 9.9, Plt 212, Differential with 59.6%
neutrophils

Imaging:  
CXR ___:
PA and lateral views of the chest provided.  Left apical fluid
better assessed on prior CT, grossly unchanged.  Left lung 
volume
loss is similar to prior CT. The right lung remains clear.  No
definite acute findings to account for symptoms provided. 

Consults: None  

Interventions:  
-1.5L LR
- 60mg IV Lasix (20, 40)
-Nitroglycerin gtt

VS Prior to Transfer: Afebrile HR 111 BP95/83 RR18 97% Bipap

ROS: Positives as per HPI; otherwise negative.  

 
Past Medical History:
- HTN
- Hypothyroidism
- PE on lovenox
- Osteoporosis
- EGFR positive metastatic NSCLC (malignant L pleural effusion
s/p Pleurx and talc pleurodesis in ___ osseous mets)

Current Treatment:
- Erlotinib: started ___ - stopped ___ 
- Osimertinib: started ___ 

Oncologic History:
- Presented with back pain ___, referred for physical therapy
- MRI of the back ___ showed left lower lung mass
- ___ Chest CT: mass in superior segment of the left lower
lobe with associated lung collapse
-  ___ PET-CT: FDG-positive mass in the left lower lobe
without any uptake in the mediastinum or elsewhere.  
- ___ mediastinoscopy with biopsy of mediastinal lymph nodes
at level 4R, 4L and 2R, all positive for adenocarcinoma. Biopsy
from the left lower lobe lesions confirmed adenocarcinoma
- EGFR positive
- ___ bone biopsy negative for malignancy
- ___ CXR showed pleural effusion, no thoracentesis done
- ___: concomitant chemoradiation with cisplatin/etoposide
for 2 cycles
- ___: Cisplatin/Alimta for 2 cycles 
- ___: PET scans with decreased FDG-avidity; no
evidence of tumor recurrence
- ___: PET with new left pleural effusion; thoracentesis
shows that cytology is positive for adenocarcinoma.
- ___: took Tarceva 150 mg PO daily; developed
dehydration, extreme fatigue, nausea, diarrhea resulting in a
hospitalization from ___ stopped Tarceva
- ___: talc pleurodesis and pleurex catheter placement for
management of malignant pleural effusion, catheter was pulled
prior to discharge
- ___: resumed Tarceva at a dose of 100 mg daily, developed
intolerable side effects of fatigue, nausea, sweats, and
discontinued it on ___.
- ___: presented with pericarditis and a small pericardial
effusion developed which waxed and waned but was never tapped.
- ___: restarted Tarceva 25 mg daily
- ___: increased Tarceva to 50 mg daily
- ___: CT with overall stable disease, slight enlargement of
the left hilar mass.
- ___: CT with decrease in size of left hilar mass
- ___: CT with stable disease
- ___: CT with stable disease
- ___: CT with stable disease
- ___: CT with stable disease
- ___ CT chest essentially stable disease
- ___: Imaging with essentially stable disease
- ___ - ___: Admitted for submassive PE; placed on
Enoxaparin
- ___: CT scan showed increased in size of tumor
- ___: CT scan showed increased osteoblastic lesions of the
spine and right pelvis
- ___: PET scan shows increased FDG avid disease in the 
chest
and left hilum as well as uptake in multiple bony sites in the T
and L spine and the pelvic
-___: Repeat biopsy of lung lesion, sent for T790M mutation
testing
-___: Completed ___ fractions of radiation to L2-R hip
-___: T790M mutation reviewed in clinic - result negative.
Increasing erlotinib to 75mg daily
-___: CT TORSO shows improvement in thoracic disease burden
and stable bony disease
-___: CT TORSO shows stable disease
-___: Interval increase in size of a left lower lobe soft
tissue mass abutting the aorta, now measuring up to 3.9 cm and
previously measuring up to 2.7 cm.
-___  CT shows decrease in size of the previously growing
soft tissue mass next to the thoracic aorta. She has no clear
evidence of progression elsewhere, but 2 tiny nonspecific right
lung nodules. Continued erlotinib at 75mg QD
-___ CT torso with stable disease, progressive
cough/SOB/hemoptysis led to admission from ___ - ___ ___/P negative for PE, ___ embolization failed d/t dissection or
spasm. Restarted on daily therapeutic lovenox prior to discharge
w/o hemoptysis. Started on robitussin DM QD and codeine QHS.
Hypotensive response to dilaudid. IP bx'd LUL mass for 
mechanisms
of resistance. 
- ___ - Seen in clinic with progressive fatigue, back 
pain.
Given concern for progression we send liquid biopsy, which
revealed a 0.73% allele frequency of her initial EGFR mutation,
negative for T790M but not a rule out given allele frequency 
<1%.
- ___ - MRI spine with new likely metastatic T4 lesion,
otherwise stable mets; no compression/stenosis 
- ___ - started osimertinib 80mg QD, initially very
fatigued/dehydrated so spaced to QOD 

 
Social History:
___
Family History:
Non contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
======================== 
General: Tired appearing ___ woman resting in bed
Neuro: Cranial nerves: PERRL, Palate elevates symmetrically.
Provides
clear and cogent history. 
HEENT: Oropharynx clear without lesions. No 
Cardiovascular: RRR no murmurs
Chest/Pulmonary: Decreased breath sounds throughout left lung
fields. No appreciable crackles, ronchi
Abdomen: Soft, nontender, nondistended
Extr/MSK: No peripheral edema, good muscle tone
Skin: No rashes  

DISCHARGE PHYSICAL EXAM:
========================
24 HR Data (last updated ___ @ 1511)
    Temp: 98.4 (Tm 98.4), BP: 122/69 (89-122/47-72), HR: 83 
(82-93), RR: 18 (___), O2 sat: 100% (96-100)  
Fluid Balance (last updated ___ @ 1205) 
  Last 8 hours No data found
  Last 24 hours  Total cumulative 275ml
    IN: Total 600ml, PO Amt 600ml
    OUT:  Total 325ml, Urine Amt 325ml  
GEN: Well appearing, in no acute distress
NECK: JVP at clavicle at 45 degrees
LUNGS: CTAB
HEART: RRR, nl S1, S2. No m/r/g.
EXTREMITIES: No edema. WWP. 
NEURO: AOx3. 

 
Pertinent Results:
ADMISSION LABS:
===============

___ 05:24PM   WBC-4.2 RBC-3.47* HGB-9.9* HCT-31.0* MCV-89 
MCH-28.5 MCHC-31.9* RDW-14.5 RDWSD-46.8*
___ 05:24PM   NEUTS-59.6 ___ MONOS-11.2 EOS-2.2 
BASOS-0.7 IM ___ AbsNeut-2.49 AbsLymp-1.09* AbsMono-0.47 
AbsEos-0.09 AbsBaso-0.03
___ 05:24PM   PLT COUNT-212
___ 05:24PM   GLUCOSE-94 UREA N-21* CREAT-0.8 SODIUM-139 
POTASSIUM-4.2 CHLORIDE-107 TOTAL CO2-24 ANION GAP-8*
___ 05:24PM   CK-MB-5 cTropnT-<0.01 proBNP-1104*
___ 01:09AM   ___ PO2-36* PCO2-46* PH-7.37 TOTAL 
CO2-28 BASE XS-0

PERTINENT LABS:
===============

___ 05:24PM   CK-MB-5 cTropnT-<0.01 proBNP-1104*
___ 05:15AM   CK-MB-3 cTropnT-<0.01
___ 09:50AM   %HbA1c-5.6 eAG-114
___ 09:50AM   TRIGLYCER-76 HDL CHOL-57 CHOL/HDL-3.4 
LDL(CALC)-122

DISCHARGE LABS:
===============
___ 05:40AM BLOOD WBC-4.4 RBC-3.69* Hgb-10.4* Hct-32.9* 
MCV-89 MCH-28.2 MCHC-31.6* RDW-13.8 RDWSD-44.9 Plt ___
___ 05:40AM BLOOD Glucose-94 UreaN-17 Creat-0.7 Na-141 
K-4.8 Cl-106 HCO3-22 AnGap-13
___ 05:40AM BLOOD Calcium-8.8 Phos-4.1 Mg-2.1

Imaging/Studies:
================
CXR ___
Similar overall pattern of left apical fluid and left lung 
volume loss in this patient with known lung cancer. 

CXR ___
1. Mild acute pulmonary edema. 
2. Likely small left pleural effusion. 
3. Similar appearance of left apical fluid and left lung volume 
loss, better assessed on prior CT chest from ___ in 
this patient with known 
lung cancer. 

TTE ___
EF 42%
Borderline dilated left ventricle with septal dyssynchrony and 
mild global
hypokinesis. Mildly dilated right ventricle with normal free 
wall systolic function. Mildly dilated scending aorta with mild 
to moderate aortic regurgitation. Mild mitral regurgitation. 
Late ubbles from the right to left heart suggesting pulmonary 
AVM.

___ PMIBI
IMPRESSION: 1. No evidence of focal reversible perfusion defect. 
2. Decreased 
left ventricular ejection fraction. 3. Moderately enlarged left 
ventricular 
cavity. 
IMPRESSION: No anginal type symptoms or interpretable ST 
segments. 
Nuclear report sent separately. 

Microbiology:
=============
___ 12:43 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH FECAL
      CONTAMINATION. 
 
Brief Hospital Course:
SUMMARY:
==================
Ms. ___ is a ___ woman with metastatic NSCLC 
reviously on erlotinib transitioned to osimertinib due to 
progression, PE (on lovenox), who presented with diarrhea with 
subsequent hypoxemia requiring BIPAP. She was quickly diuresed 
in the ICU, taken off BiPAP, and returned to room air. She was 
then called out to the hospitalist service, where she was found 
to have a new cardiomyopathy with EF of 42% on echocardiogram. 
She was then transferred to cardiology service for workup of new 
cardiomyopathy. She underwent pharmacologic stress test on ___ 
which did not demonstrate any perfusion defects. 

TRANSITIONAL ISSUES:
===================

Discharge maintenance diuretic: none
Discharge weight: 135.36 lb
Discharge Cr: 0.7

[] New diagnosis of HFmrEF made during this admission. Etiology 
of her exacerbation was unclear, felt to be possibly in the 
setting of acute volume overload. She was not felt to need 
maintenance diuretics at the time of discharge. Please follow-up 
volume status as an outpatient and make adjustments as needed. 
[] Heart failure regimen at time of discharge included 
lisinopril 2.5mg and metoprolol succinate 25mg. Please adjust as 
clinically appropriate. 
[] Osimertinib was held during this inpatient admission and upon 
discharge, with plan for close follow-up in ___ clinic to 
discuss when to resume. 
[] She presented with diarrhea which seemed to resolve in the 
setting of holding osimertinib. If resuming osimertinib, please 
monitor for recurrence of diarrhea. 

ACUTE ISSUES 
=============== 
# Hypoxic Respiratory Failure: 
# Cardiomyopathy (EF 40%)
# Acute Systolic HF Exacerbation
Patient reported some increased dyspnea prior to presentation 
but had an acute worsening in the setting of fluid 
resuscitation. CXR ___ showed known left apical ffusion but 
no evidence of gross volume overload or infiltrates. She briefly 
required BIPAP in the ED but then discontinued prior to arrival 
to the ICU and after a dose of IV Lasix. Given new LBBB on EKG, 
there was a concern for cardiac event as trigger. Although CK MB 
and troponin were negative, the patient ultimately did receive 
an echo which showed depressed ejection fraction when compared 
to prior TTE in ___ with global hypokinesis. She was 
transferred to the cardiology service and underwent 
pharmacologist stress test to rule out ischemia as a cause of 
her new cardiomyopathy. PMIIB on ___ was without evidence of 
perfusion defects. Osimertinib as a potential cause of her 
cardiomyopathy was discussed with her outpatient oncologists and 
was felt to be less likely. Overall it was felt that her mild 
global hypokinesis may have been in the setting of volume 
overload secondary to aggressive IVF resuscitation. Heart 
failure regimen at time of discharge included lisinopril 2.5mg 
and metoprolol succinate 25mg.

# Diarrhea: Reports previous bouts of diarrhea, sometimes 
related to her immunotherapy. Stool studies including C. diff 
were ordered on arrival, although patient did not have any 
further diarrhea while in house. Diarrhea was self-limited and 
resolved during hospitalization. 

# Metastatic NSCLC: Previously on erlotinib, transitioned to 
osimertinib ___ in setting of radiographic 
progression of disease. Dr. ___ OK to hold osimertinib 
while inpatient. She will hold this medication upon discharge 
until her next ___ clinic appointment. 

CHRONIC ISSUES 
=============== 
# Hx of PE: Continued home lovenox ___ qd.

# Hypothyroidism: Continued home levothyroxine.

# Chronic Normocytic Anemia: H/H at baseline.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Benzonatate 200 mg PO TID cough 
2. Cyanocobalamin 1000 mcg PO DAILY 
3. Enoxaparin Sodium 100 mg SC DAILY 
4. Levothyroxine Sodium 137 mcg PO DAILY 
5. Omeprazole 20 mg PO DAILY 
6. Centrum Silver Women (multivit-min-iron-FA-lutein) 8 mg 
iron-400 mcg-300 mcg oral DAILY 
7. Denosumab (Prolia) 60 mg SC Q6MONTHS 
8. Meclizine 12.5 mg PO TID:PRN dizziness 
9. Polyethylene Glycol 17 g PO DAILY to keep your stool from 
getting hard while taking oxycodone and codeine 
10. Senna 8.6 mg PO BID to help prevent constipation 
11. TraMADol 50 mg PO Q4H:PRN Pain - Moderate 

 
Discharge Medications:
1.  Atorvastatin 20 mg PO QPM  
2.  Lisinopril 2.5 mg PO DAILY  
3.  Metoprolol Succinate XL 25 mg PO DAILY  
4.  Benzonatate 200 mg PO TID cough  
5.  Centrum Silver Women (multivit-min-iron-FA-lutein) 8 mg 
iron-400 mcg-300 mcg oral DAILY  
6.  Cyanocobalamin 1000 mcg PO DAILY  
7.  Denosumab (Prolia) 60 mg SC Q6MONTHS  
8.  Enoxaparin Sodium 100 mg SC DAILY  
9.  Levothyroxine Sodium 137 mcg PO DAILY  
10.  Meclizine 12.5 mg PO TID:PRN dizziness  
11.  Omeprazole 20 mg PO DAILY  
12.  PARoxetine 5 mg PO DAILY  
13.  Polyethylene Glycol 17 g PO DAILY to keep your stool from 
getting hard while taking oxycodone and codeine  
14.  Senna 8.6 mg PO BID to help prevent constipation  
15.  TraMADol 50 mg PO Q4H:PRN Pain - Moderate  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
Acute hypoxemic respiratory failure
Nonischemic cardiomyopathy
Acute systolic heart failure exacerbation

Secondary
Metastatic non-small cell lung cancer
History of pulmonary embolism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You were admitted to the hospital because you developed 
shortness of breath after receiving IV fluid. 

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You received medication to help you pee out fluid from your 
lungs.
- You had an ultrasound of your heart which showed that your 
heart was beating less well than usual. You will follow-up with 
a heart doctor after you leave the hospital who will help manage 
this. 
- You underwent a stress test. This did not show any signs of 
blockages in the blood vessels that supply the heart, which is 
good news.  
- Your home cancer medication (osimertinib/Tagrisso) was held 
when you left this hospital. You will follow-up with your 
outpatient cancer doctor who will tell you when to restart this 
medication. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Please continue to take all your medicines and follow up with 
your outpatient doctors as ___ (see below). 

We wish you the best!  

Sincerely,  
Your ___ Team
 
Followup Instructions:
___